US06124323
1-(2-(4-Fluorophenoxy)ethyl)-4-((5,6,7,8-tetrahydro-2-naphthyl)methyl)piperidine hydrochloride
The title compound was prepared from 4-((5,6,7,8-tetrahydro-2-naphthyl)methyl)piperidine hydrochloride (250 mg, 940 μmol), 2-(4-fluorophenoxy)ethyl bromide (216 mg, 987 μmol) and K2CO3 (266 mg, 1.93 mmol) as a colorless solid (220 mg): mp 181-183° C.; 1H NMR (CDCl3) 1.60-2.12 (m, 9H), 2.54 (d, J=7.2 Hz, 2H), 2.65-2.81 (m, 6H), 3.20-3.55 (m, 2H), 3.59-3.71 (m, 2H), 4.52 (t, J=4.2 Hz, 2H), 6.77-7.01 (m, 7H), 12.55 (bs, 1H); Anal. Calcd for C24H31ClFNO: C, 71.36; H, 7.74; N, 3.47. Found: C, 71.30; H, 7.78; N, 3.39.

reactant | 4-((5,6,7,8-tetrahydro-2-naphthyl)methyl)piperidine hydrochloride | 940 μmol, 250 mg | Cl.C1=C(C=CC=2CCCCC12)CC1CCNCC1
reactant | 2-(4-fluorophenoxy)ethyl bromide | 987 μmol, 216 mg | FC1=CC=C(OCCBr)C=C1 | C8H8BrFO
reactant | K2CO3 | 1.93 mmol, 266 mg | C(=O)([O-])[O-].[K+].[K+]
product | 1-(2-(4-Fluorophenoxy)ethyl)-4-((5,6,7,8-tetrahydro-2-naphthyl)methyl)piperidine hydrochloride | Cl.FC1=CC=C(OCCN2CCC(CC2)CC2=CC=3CCCCC3C=C2)C=C1 | InChI=1S/C24H30FNO.ClH/c25-23-7-9-24(10-8-23)27-16-15-26-13-11-19(12-14-26)17-20-5-6-21-3-1-2-4-22(21)18-20;/h5-10,18-19H,1-4,11-17H2;1H
